US07662771B2
5-[2-(2-methoxyphenyl)-2-oxo-ethylcarbamoyl]-pentanoic acid methyl ester
Dissolve 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (3.57 g, 18.62 mmol), 4-(dimethylamino)pryidine (463.8 mg, 3.79 mmol) and adipic acid monomethyl ester (2.97 g, 18.55 mmol) in 100 mL of CH2Cl2 and allow it to stir at room temperature for 45 minutes. Add crude 2-amino-1-(2-methoxy-phenyl)-ethanone hydrochloride (3.74 g, 18.55 mmol) and triethylamine (3.75 g, 37.1 mmol) to the reaction mixture and allow it to stir at ambient temperature for 22 hours. Dilute the reaction with 200 mL of CH2Cl2 and wash it with 1 NHCl (2×), saturated aqueous NaHCO3 (2×) and brine (1×). Dry the organic layer with MgSO4. Filter the drying agent and concentrate in vacuo to afford 4.57 g of the titled product (80%): mass spectrum: m/z 308.1 (M+H).

reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 18.62 mmol, 3.57 g | Cl.CN(CCCN=C=NCC)C
reactant | adipic acid monomethyl ester | 18.55 mmol, 2.97 g | COC(CCCCC(=O)O)=O | C7H12O4
reactant | 2-amino-1-(2-methoxy-phenyl)-ethanone hydrochloride | 18.55 mmol, 3.74 g | Cl.NCC(=O)C1=C(C=CC=C1)OC
reactant | triethylamine | 37.1 mmol, 3.75 g | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pryidine | 3.79 mmol, 463.8 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 5-[2-(2-methoxyphenyl)-2-oxo-ethylcarbamoyl]-pentanoic acid methyl ester | 4.57 g, 80% | COC(CCCCC(NCC(=O)C1=C(C=CC=C1)OC)=O)=O | C16H21NO5
